US04777267
Synthesis of 4-(4-nitrophenyl)thiomethyl-1,3-dioxol-2-one
In 30 ml of dichloromethane was dissolved 1.0 g of 4-bromomethyl-1,3-dioxol-2-one, and 0.9 g of 4-nitrobenzenethiol was added. Then, 0.6 g of triethylamine was added, and the mixture was stirred at room temperature for 1 hour. After the reaction, the solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate. The insoluble materials were separated by filtration, and the solvent was evaporated under reduced pressure. The residue was subjected to medium-pressure silica gel column chromatography as in Example 1 [except that the column was eluted with a mixture of chloroform and n-hexane (2/1, v/v)]. The eluate was evaporated under reduced pressure, and the residue was recrystallized from a mixed solvent of chloroform and n-hexane to give 0.5 g of the captioned compound as yellow crystals.

reactant | 4-bromomethyl-1,3-dioxol-2-one | 1.0 g | BrCC=1OC(OC1)=O | C4H3BrO3
reactant | 4-nitrobenzenethiol | 0.9 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(4-nitrophenyl)thiomethyl-1,3-dioxol-2-one | 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)SCC=1OC(OC1)=O | C10H7NO5S
